US06992083B2
N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-2-methoxymethyl-isonicotinamide
From 2-chloromethyl-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide with sodium hydride and ethanol in dioxane and DMF. ES-MS m/e (%): 408 (M+H+, 100).

reactant | 2-chloromethyl-N-[7-(4-fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-isonicotinamide | ClCC=1C=C(C(=O)NC=2OC3=C(N2)C(=CC=C3C3=CC=C(C=C3)F)OC)C=CN1 | C21H15ClFN3O3
reactant | sodium hydride | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[7-(4-Fluoro-phenyl)-4-methoxy-benzooxazol-2-yl]-2-methoxymethyl-isonicotinamide | FC1=CC=C(C=C1)C1=CC=C(C=2N=C(OC21)NC(C2=CC(=NC=C2)COC)=O)OC | C22H18FN3O4
